US08097610B2
Preparation of [3-[2-[[1-(6-chlorobenzothiazole-2-yl)pyrrolidine-3-yl]ethylamino]ethoxy]phenyl]acetic acid
A mixture of [3-[2-[[1-(6-chlorobenzothiazole-2-yl)pyrrolidine-3-yl]ethylamino]ethoxy]phenyl]acetic acid methyl ester (101 mg), 2N aqueous sodium hydroxide (0.535 mL), tetrahydrofuran (1 mL) and methanol (0.5 mL) was stirred at room temperature for 1 hour. The reaction solution was concentrated under reduced pressure and extracted with ethyl acetate. The organic layer was washed with water and brine, and dried over sodium sulphate. The solvent was evaporated under reduced pressure and the residue was washed with ethyl acetate/n-hexane to give the title compound (13 mg). Yield: 14%.

reactant | [3-[2-[[1-(6-chlorobenzothiazole-2-yl)pyrrolidine-3-yl]ethylamino]ethoxy]phenyl]acetic acid methyl ester | 101 mg | COC(CC1=CC(=CC=C1)OCCNCCC1CN(CC1)C=1SC2=C(N1)C=CC(=C2)Cl)=O | C24H28ClN3O3S
reactant | sodium hydroxide | 2N, 0.535 mL | [OH-].[Na+]
reactant | tetrahydrofuran | 1 mL | O1CCCC1 | C4H8O
solvent | methanol | 0.5 mL | CO | CH4O
product | [3-[2-[[1-(6-chlorobenzothiazole-2-yl)pyrrolidine-3-yl]ethylamino]ethoxy]phenyl]acetic acid | 13 mg, Yield: 14% | ClC1=CC2=C(N=C(S2)N2CC(CC2)CCNCCOC=2C=C(C=CC2)CC(=O)O)C=C1 | C23H26ClN3O3S
